US06734179B2
0.130 g (0.27 mMol) 4-{4-methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester were dissolved in 3 ml 2.5 M HCl/MeOH and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo and taken up in 3 ml isopropanol. The suspension formed was filtered and the material on the filter was washed with diethyl ether and dried in vacuo. One obtained 95 mg (84%) morpholine-4-carboxylic acid [4-methoxy-7-(1,2,3,6-tetrahydro-pyridin-4-yl)-benzothiazol-2-yl]-amide hydrochloride (1:1) as an off-white solid. ES-MS m/e (%): 375 ([M+H]+, 100).

reactant | 4-{4-methoxy-2-[(morpholine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.27 mMol, 0.130 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCOCC2)OC | C23H30N4O5S
reactant | HCl MeOH | 2.5 M, 3 ml | Cl.CO
product | morpholine-4-carboxylic acid [4-methoxy-7-(1,2,3,6-tetrahydro-pyridin-4-yl)-benzothiazol-2-yl]-amide hydrochloride | 95 mg, 84% | Cl.COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCOCC2)C=2CCNCC2 | InChI=1S/C18H22N4O3S.ClH/c1-24-14-3-2-13(12-4-6-19-7-5-12)16-15(14)20-17(26-16)21-18(23)22-8-10-25-11-9-22;/h2-4,19H,5-11H2,1H3,(H,20,21,23);1H
